US07151105B2
A 3-L, 3-neck flask was charged with LiHMDS (1.0 M in THF, 750mL, 0.75 mol) and purged with nitrogen. The flask was cooled to −34° C. An addition funnel was then charged with EtOAc (74 mL, 0.7576 mol) and this reagent was slowly added to the reaction vessel. After complete EtOAc addition another addition funnel was charged with a 2-[4-(3-cyclopentyl-3-oxopropyl)-2-fluorophenyl]-2-methylpropanenitrile solution (crude MTBE soln from prior reaction, theor. 135.49 g, 0.4715 mol) and rinsed over with THF (anhydrous, 20 mL). The ketone solution was added to the reaction flask. Five minutes after complete addition a reaction aliquot was removed and analyzed by HPLC, showing 1% 2-[4-(3-cyclopentyl-3-oxopropyl)-2-fluorophenyl]-2-methylpropanenitrile. Ten minutes after complete ketone addition, the bath was switched to 0° C. Once the internal temperature had warmed to −10° C., 1M NaOH (860 mL) was slowly added. After complete NaOH soln addition, the reaction was heated to 50° C. After 21 hours an aliquot was removed from the top layer and analyzed by HPLC, showing no detectable ethyl 5-[4-(1-cyano-1-methylethyl)-3-fluorophenyl]-3-cyclopentyl-3-hydroxypentanoate. The reaction solution was cooled below 30° C. and added to a separatory funnel with MTBE (1265 mL). The phases were mixed well and separated. An aliquot of the aqueous phase was analyzed by HPLC, verifying no significant product, and this layer was discarded. Water (1265 mL) was added and the phases mixed well and separated. An aliquot of the organic phase was analyzed by HPLC, verifying very little product in this layer, and the organic phase was discarded. The aqueous phase was added to a flask. Concentrated aq. HCl (˜49 mL) was added to the aqueous phase until the pH=2. The mixture was added back to a separatory funnel with IPE (1265 mL) and mixed well. An aliquot of the aqueous phase verified no significant product, and this layer was discarded. The organic layer was dried (MgSO4, 25 g), filtered, and the cake rinsed with IPE (200 mL). The solution was analyzed by K—F titration, showing 0.93% water content. This solution was charged to a 3-L, 3-neck flask. While stirring well, dicyclohexylamine (188 mL, 0.9446 mol) was added. The amine addition caused an exotherm to 28° C. After 10 min, significant solids were observed. The solution was stirred at rt for 2.5 h. The solution was cooled in a 0° C. bath until the internal temp remains below 5° C. for 2 h. The slurry is filtered, and the solids rinsed with cold (5° C.) IPE (250 mL). The solids were dried to provide 189.68 g of 5-[4-(1-cyano -1-methylethyl)-3-fluorophenyl]-3-cyclopentyl-3-hydroxypentanoic acid dicyclohexylamine salt as a white powder. The solids had a 98.4% purity by HPLC and were clean by 1H NMR.

reactant | LiHMDS | 0.75 mol, 1.0 M, 750mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | EtOAc | 0.7576 mol, 74 mL | CCOC(=O)C | C4H8O2
reactant | 2-[4-(3-cyclopentyl-3-oxopropyl)-2-fluorophenyl]-2-methylpropanenitrile | C1(CCCC1)C(CCC1=CC(=C(C=C1)C(C#N)(C)C)F)=O | C18H22FNO
reactant | dicyclohexylamine | 0.9446 mol, 188 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 5-[4-(1-cyano -1-methylethyl)-3-fluorophenyl]-3-cyclopentyl-3-hydroxypentanoic acid dicyclohexylamine salt | 189.68 g | C1(CCCCC1)NC1CCCCC1.C(#N)C(C)(C)C1=C(C=C(C=C1)CCC(CC(=O)O)(O)C1CCCC1)F | InChI=1S/C20H26FNO3.C12H23N/c1-19(2,13-22)16-8-7-14(11-17(16)21)9-10-20(25,12-18(23)24)15-5-3-4-6-15;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h7-8,11,15,25H,3-6,9-10,12H2,1-2H3,(H,23,24);11-13H,1-10H2
